data/mechanisms/records/IMS8-EQ8.31b.json
{"mechanism_id": "IMS8-EQ8.31b", "species": [{"species_id": "mh_permethyl_pentofuranoside", "mapped_smiles": "[CH3:8][OH+:7][CH:1]1[O:6][CH:4]([CH2:5][O:13][CH3:14])[CH:3]([O:11][CH3:12])[CH:2]1[O:9][CH3:10]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "cyclic_oxocarbenium", "mapped_smiles": "[CH:1]1=[O+:6][CH:4]([CH2:5][O:13][CH3:14])[CH:3]([O:11][CH3:12])[CH:2]1[O:9][CH3:10]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methanol_loss", "mapped_smiles": "[CH3:8][OH:7]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["mh_permethyl_pentofuranoside"]}, {"state_id": "state_products", "species_ids": ["cyclic_oxocarbenium", "methanol_loss"]}], "steps": [{"step_id": "step_methanol_elimination", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "lone_pair", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [1, 6]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [1, 7]}, "target": {"type": "lone_pair", "atom_maps": [7]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_methanol_elimination", "support_type": "textbook_proposed", "locator": {"page": 160, "equation": "8.31", "figure": null, "panel": "arabo", "section": null}, "confidence": 0.75, "curator_note": "ARABO panel (MH+ from permethylated arabofuranose; 27%). Book draws 0 reaction arcs for this panel; both encoded moves are curator-supplied for electron balance (none drawn on the page). Instead the page depicts the ground-state proton-bound bridge H3CO...H+...OCH3 (a non-covalent intramolecular hydrogen bond that sequesters the proton away from the anomeric leaving group, rationalizing the lower 27% methanol-loss yield). DRAWN INTERMEDIATE DISCLOSED: that proton-bound complex cannot be a valid single mapped-SMILES species, so it is described here rather than encoded; the net methanol elimination is encoded with the proton placed on the anomeric OCH3 oxygen (the productive conformer). The printed 27% is the relative abundance of the (MH-CH3OH)+ channel for the arabo isomer. Charge-site (inductive) 1,1-elimination of methanol from the protonated permethylated pentofuranoside [M+H]+: the ring-oxygen (O6) lone pair forms the C1=O6 oxocarbenium pi bond (anchimeric assistance) while the C1-O7 bond to the protonated anomeric methoxy breaks heterolytically, both of its electrons departing with the neutral methanol. Encoded as two double-barbed (2e) moves; the arrow_check reports the O6 and O7 changes as advisory '(soft)' lone-pair notes, which is expected for heterolytic lone-pair chemistry. Structure encoded as a FLAT/representative furanose skeleton: ribo and arabo are C-2 epimeric diastereomers, but the scan's wedge/hash stereochemistry cannot be assigned to an absolute configuration with confidence, so absolute stereochemistry is not encoded; the electron-pushing is identical for both diastereomers and only the drawn proton disposition and the abundance differ."}], "ms_context": {"ionization_method": "CI", "polarity": "positive", "adduct": "[M+H]+", "activation_method": "chemical ionization", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 207.1227, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_175", "species_id": "cyclic_oxocarbenium", "step_id": "step_methanol_elimination", "observed_mz": 175.0965, "relative_intensity": 0.27, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
